US07183306B2
5-[4-(Benzyloxy)phenyl]-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-3-ol
To a solution of 3-(4-benzyloxyphenyl)propiolic acid (1 g) and 1-hydroxybenzotriazole hydrate (643 mg) in N-methylpyrrolidone (10 ml) was added WSCD-HCl (912 mg) and the mixture was stirred at room temperature for 10 min. In another flask, diisopropylethylamine (2.31 g) was added to a suspension of 5-hydrazino-2-methoxypyridine dihydrochloride (1.26 g) in N-methylpyrrolidone (4 ml) and stirred at room temperature until all 5-hydrazino-2-methoxypyridine dihydrochloride was dissolved. Thus obtained hydrazine solution was added to the reaction flask and the mixture was stirred at room temperature for 1.5 hrs.

reactant | 3-(4-benzyloxyphenyl)propiolic acid | 1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C#CC(=O)O | C16H12O3
reactant | 1-hydroxybenzotriazole hydrate | 643 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 2.31 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-hydrazino-2-methoxypyridine dihydrochloride | 1.26 g | Cl.Cl.N(N)C=1C=CC(=NC1)OC
reactant | hydrazine | NN | H4N2
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 4 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[4-(Benzyloxy)phenyl]-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-3-ol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C=1C=NC(=CC1)OC)O | C22H19N3O3
